US08440628B2
Using the Automatic peptide synthesizer, Boc-Gly-Ser(tBu)-Ser(Trt)-Phe-Leu-Ser(tBu)-Pro-Glu(OtBu)-His(Boc)-Gln(Trt)-Arg(Pmc)-Val-Gln(Trt)-Gln(Trt)-Arg(Pmc)-Lys(Boc)-Glu(OtBu)-Ser(tBu)-Lys(Boc)-Lys(Boc)-Pro-Pro-Ala-Lys(Boc)-Leu-Gln(Trt)-Pro-Arg(Pmc)-HMP resin was synthesized from Fmoc-Arg(Pmc)-HMP-resin (Applied Biosystems Japan; 472 mg 0.25 mmol) by repeated deletion of Fmoc and insertion of Fmoc-amino acid (provide that, Boc-glycine was used in the case of glycine N-terminal) by HBTU/HOBt. The obtained protected peptide-resin (1.7 g) was treated with 1% TFA/5% TIPS/methylene chloride solution (15 mL) for 30 minutes. The peptide-resin was collected and washed with methylene chloride. (30 mL) for several times, and with 1% DIPEA (30 mL) then with methylene chloride (30 mL). The obtained Trt deleted peptide-resin was swelled in N-methylpyrrolidone (10 mL) and the mixture was reacted with octanoic acid (144.2 mg, 1.0 mmol) and EDC-HCl (192 mg, 1.0 mmol) in the presence of DNAP (31 mg, 0.25 mmol) for 16 hours. The resulting resin was collected by filtration and washed with N-methylpyrrolidone and methylene chloride respectively, and dried in vacuo to obtain protected peptide-resin wherein side chain of serine at 3-position was substituted by octanoyl group. Then, deprotection reagent consisting of 88% TFA/5% phenol/2% TIPS/5% H2O (15 mL) was added to the obtained resin and the mixture was stirred for 2 hours at room temperature. The resin was removed off by filtration and the filtrate was concentrated. The obtained residue was treated with ether to give the precipitate, and collected by filtration. The precipitate was dried to give 900 mg of crude peptide. 200 mg of the obtained crude peptide was dissolved in 10 mL of water and the solution was added to YMC-Pack ODS-A column (20 mmΦ×250 mm) and eluted by 5% TFA with linear gradient of 0 to 60% of acetonitrile for 60 minutes (flow rate: 10 mL/min). The objective eluted parts were collected and lyophilized to give 60 mg of target peptide (human ghrelin acetic acid salt: acetic acid content: 10.9%). ESI-MS: 3371 (calculated: 3370.9)

reactant | Boc-Gly-Ser(tBu)-Ser(Trt)-Phe-Leu-Ser(tBu)-Pro-Glu(OtBu)-His(Boc)-Gln(Trt)-Arg(Pmc)-Val-Gln(Trt)-Gln(Trt)-Arg(Pmc)-Lys(Boc)-Glu(OtBu)-Ser(tBu)-Lys(Boc)-Lys(Boc)-Pro-Pro-Ala-Lys(Boc)-Leu-Gln(Trt)-Pro-Arg(Pmc) | N(CC(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC2=CN(C=N2)C(=O)OC(C)(C)C)C(=O)N[C@@H](CCC(NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C2=C(C)C=3CCC(C)(C)OC3C(C)=C2C)=N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)N[C@@H](CCC(NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C2=C(C)C=3CCC(C)(C)OC3C(C)=C2C)=N)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N2[C@H](C(=O)N3[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(NC(C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)=O)C(=O)N4[C@H](C(=O)N[C@@H](CCCNC(NS(=O)(=O)C5=C(C)C=6CCC(C)(C)OC6C(C)=C5C)=N)C(=O)O)CCC4)CCC3)CCC2)CCC1)C(=O)OC(C)(C)C | C328H447N47O62S3
reactant | Fmoc-Arg(Pmc) | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C35H42N4O7S
product | Boc-glycine | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
